US06887889B2
To a stirred solution of 4-{[2-(3,5-difluoro-phenyl)-acetylamino]-methyl}-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.09 g, 0.16 mmol) in CH2Cl2 (1.5 mL) at 0° C. was added TFA (0.5 mL, to give a 25% v/v solution). The mixture was stirred at room temperature for 3 h at which time TLC (4:1 hexanes/EtOAc) showed no starting material left. The solvent was removed by rotary evaporation and the resulting liquid was evaporated from toluene (2×10 mL) then diluted with EtOAc (100 mL) and washed with 10% aqueous NaHCO3 solution (2×50 mL) and saturated brine (50 mL). The organic layer was dried over anhydrous Na2SO4, filtered, concentrated by rotary evaporation, and dried under high vacuum for 1 h to yield 4-{[2-(3,5-difluoro-phenyl)-acetylamino]-methyl}-4-(4-iodo-phenyl)-piperidine as a reddish solid (0.038 g, ˜0.08 mmol). MS (ESI): 471.1 (M+1).

reactant | 4-{[2-(3,5-difluoro-phenyl)-acetylamino]-methyl}-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.16 mmol, 0.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)CNC(CC1=CC(=CC(=C1)F)F)=O | C25H29F2IN2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 4-{[2-(3,5-difluoro-phenyl)-acetylamino]-methyl}-4-(4-iodo-phenyl)-piperidine | ˜0.08 mmol, 0.038 g | FC=1C=C(C=C(C1)F)CC(=O)NCC1(CCNCC1)C1=CC=C(C=C1)I | C20H21F2IN2O
